US05084463
Step 2) Preparation of 2-(Methylaminomethyl)benzoxazole
2-(Chloromethyl)benzoxazole (3.99 g, 23.8 mmol) was dissolved in aqueous methylamine (40 mL, 40 wt % in H2O) at 10° C. under a nitrogen atmosphere. After 20 minutes, the reaction mixture was warmed to room temperature and stirred for 1 hour. The mixture was diluted with water and extracted with dichloromethane. The organic phase was dried (MgSO4) and concentrated to afford crude product which was purified by flash column chromatography (5% methanol/dichloromethane) to afford 3.18 g (82%) of pure product as a yellow oil.

reactant | 2-(Chloromethyl)benzoxazole | 23.8 mmol, 3.99 g | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
reactant | methylamine | 40 mL | CN | CH5N
solvent | water | O | H2O
product | 2-(Methylaminomethyl)benzoxazole | 3.18 g, 82% | CNCC=1OC2=C(N1)C=CC=C2 | C9H10N2O
